Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / fish derived
 
Attending: ___.
 
Chief Complaint:
right lower extremity rest pain
 
Major Surgical or Invasive Procedure:
-R CFA, SFA, popliteal, and AT PTA via L groin access

 
History of Present Illness:
___ y.o. with extensive vascular history outlined below now with 
severe
restenosis of the right SFA stent with recurrent rest pain.  Hx
of RA, fibromyalgia, HTN, HLD, DVT on chronic Coumadin, left CVA
___, s/p lap chole, and anemia, in rehab since CVA. She had a
seizure last month, felt to be related to electrolyte imbalance. 


Her current dosing of Coumadin as of ___ is 5mg 4 days a week
and 4mg 3 days a week rotating doses. Last dose of Coumadin 
___.
Lovenox bridge with last dose ___ AM. Patient diagnosed with 
a UTI on ___ and started on Cipro 250mg BID x 7 days.

She was admitted overnight following a RLE CFA/SFA/popliteal/AT 
PTA with drug-coated balloon via a L groin access.

 
Past Medical History:
Rheumatoid arthritis, fibromyalgia, hypertension, left CVA 
___ 

Past Surgical History: 
lap cholecystectomy 
___ lysis check, right profunda stent 
___ right SFA PTA/stent, lysis catheter placement 
___ bilateral lower extremity angiogram 

 
Social History:
___
Family History:
Notes family history of hypertension, hyperlipidemia. Her father 
had stents placed in his leg arteries.  
 
Physical Exam:
Vitals: 24 HR Data (last updated ___ @ 125)
Temp: 97.7 (Tm 97.7), BP: 122/75 (122-127/73-75), HR: 71
(69-71), RR: 18, O2 sat: 98%, O2 delivery: RA
GENERAL: [X]NAD  []A/O x 3  []intubated/sedated []abnormal
CV: [X]RRR  [] irregularly irregular []no MRG  []Nl S1S2
[]abnormal
PULM: [X]CTA b/l  []no respiratory distress  []abnormal
ABD: [X]soft  []Nontender  []appropriately tender 
[]nondistended  []no rebound/guarding  []abnormal
WOUND: groin stick site clean, dry, intact, no evidence of 
hematoma or bleeding
EXTREMITIES: []no CCE []abnormal
PULSES: R: p/d/p/d  L: p/d/-/d

 
Pertinent Results:
___ 06:00AM BLOOD WBC-3.4* RBC-3.04* Hgb-7.6* Hct-24.8* 
MCV-82 MCH-25.0* MCHC-30.6* RDW-15.2 RDWSD-44.8 Plt ___
___ 06:00AM BLOOD Glucose-92 UreaN-11 Creat-0.8 Na-144 
K-3.9 Cl-103 HCO3-26 AnGap-15
___ 06:00AM BLOOD Calcium-7.7* Phos-3.4 Mg-1.1*
 
Brief Hospital Course:
Ms ___ is a ___ hx R SFA and profunda PTA/stenting p/w 
recurrent RLE rest pain now s/p  R CFA, SFA, popliteal, and AT 
angioplasty on ___ with Dr. ___.

She was admitted overnight following her angio for monitoring. 
By POD1, she was hemodynamically stable, tolerated a regular 
diet, voiding appropriately after removal of her Foley, and her 
pain was well controlled on an oral regimen. 

She was restarted on her home warfarin with Lovenox bridge on 
the day of discharge as well as started on a 90 day course of 
Plavix. She will hold aspirin until Plavix is completed. She was 
discharged back to the ___ nursing facility she was at 
previously and will follow up with Dr ___ in clinic.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Ciprofloxacin HCl 250 mg PO Q12H UTI 
3. FLUoxetine 20 mg PO DAILY 
4. Losartan Potassium 50 mg PO DAILY 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Pregabalin 100 mg PO BID 
7. Pantoprazole 40 mg PO Q24H 
8. Aspirin 81 mg PO DAILY 
9. Warfarin 5 mg PO 4X/WEEK (___) 
10. Warfarin 4 mg PO 3X/WEEK (___) 
11. FoLIC Acid 1 mg PO DAILY 
12. Calcium Carbonate 600 mg PO DAILY 
13. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Mild 
14. Thiamine 100 mg PO BID 
15. TraZODone 25 mg PO QHS:PRN insomnia 
16. Vitamin D 400 UNIT PO DAILY 
17. Enoxaparin Sodium 70 mg SC Q12H 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Calcium Carbonate 600 mg PO DAILY  
4.  Ciprofloxacin HCl 250 mg PO Q12H UTI  
5.  Enoxaparin Sodium 70 mg SC Q12H  
6.  FLUoxetine 20 mg PO DAILY  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Losartan Potassium 50 mg PO DAILY  
9.  Metoprolol Succinate XL 25 mg PO DAILY  
10.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Mild  
11.  Pantoprazole 40 mg PO Q24H  
12.  Pregabalin 100 mg PO BID  
13.  Thiamine 100 mg PO BID  
14.  TraZODone 25 mg PO QHS:PRN insomnia  
15.  Vitamin D 400 UNIT PO DAILY  
16.  Warfarin 5 mg PO 4X/WEEK (___)  
17.  Warfarin 4 mg PO 3X/WEEK (___)  
18. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until you complete 90 day course of Plavix.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
peripheral vascular disease

 
Discharge Condition:
Mental Status: Clear and coherent. Aphasic (L CVA)
Level of Consciousness: Alert, oriented x3.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after a 
peripheral angiogram.   To do the test, a small puncture was 
made in one of your arteries.  The puncture site heals on its 
own: there are no stitches to remove.   You tolerated the 
procedure well and are now ready to be discharged from the 
hospital.   Please follow the recommendations below to ensure a 
speedy and uneventful recovery.
Peripheral Angiography
Puncture Site Care
For one week:
_x0095_Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
_x0095_Use only mild soap and water to gently clean the area around 
the puncture site. 
_x0095_Gently pat the puncture site dry after showering. 
_x0095_Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 
Activity 
For the first 48 hours: 
_x0095_Do not drive for 48 hours after the procedure
For the first week:
_x0095_Do not lift, push , pull or carry anything heavier than 10 
pounds
_x0095_Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.
After one week:
_x0095_You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.
Medications:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  
For  Problems or Questions:
Call ___ in an emergency such as:
_x0095_Sudden, brisk bleeding or swelling at the groin puncture site 
that does not stop after applying pressure for ___ minutes
_x0095_Bleeding that is associated with nausea, weakness, or 
fainting.
Call the vascular surgery office (___) right away if 
you have any of the following. (Please note that someone is 
available 24 hours a day, 7 days a week)
_x0095_Swelling, bleeding, drainage, or discomfort at the puncture 
site that is new or increasing since discharge from the hospital
_x0095_Any change in sensation or temperature in your legs
_x0095_Fever of 101 or greater
_x0095_Any questions or concerns about recovery from your angiogram 

 
Followup Instructions:
___